US06964960B2
7-Ethyl-6H-indolo[1,2-a]quinazoline-5-one
A mixture of 11-oxo-10,11-dihydro-5H-dibenzo[b,f]azepine-10-carbonitrile (500 mg, 2.13 mmol), potassium carbonate (359 mg, 2.6 mmole) and ethyl iodide (0.202 ml, 2.5 mmole) in 4 ml DMF is stirred at r.t. for 18 h.

reactant | 11-oxo-10,11-dihydro-5H-dibenzo[b,f]azepine-10-carbonitrile | 2.13 mmol, 500 mg | O=C1C2=C(NC3=C(C1C#N)C=CC=C3)C=CC=C2 | C15H10N2O
reactant | potassium carbonate | 2.6 mmole, 359 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 2.5 mmole, 0.202 ml | C(C)I | C2H5I
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-Ethyl-6H-indolo[1,2-a]quinazoline-5-one | C(C)C=1C2=CC=CC=C2N2C1NC(C=1C=CC=CC21)=O | C17H14N2O
